US04064106
3,5-di-t-butyl-4-hydroxybenzyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain 3,5-di-t-butyl-4-hydroxybenzyl dicyclohexylphosphinodithioate, m.p. 129°-131° C, which on testing lasted 475 hours* longer than the control. The total number of hours required to reach failure was 1.9 times that of the control.

reactant | 3,5-di-t-butyl-4-hydroxybenzyl bromide | C(C)(C)(C)C=1C=C(CBr)C=C(C1O)C(C)(C)C | C15H23BrO
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | 3,5-di-t-butyl-4-hydroxybenzyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1CCCCC1 | C27H45OPS2
